US06995144B2
5-Chloro-3-methoxypyrazine-2-carboxaldehyde
After dissolving 11.4 ml of 2,2,6,6-tetramethylpiperidine in 100 ml of tetrahydrofuran, the solution was cooled to −30° C. Next, 24.1 ml of n-butyllithium (2.6 M, n-hexane solution) was added dropwise under a nitrogen atmosphere. After stirring for 15 minutes and cooling on ice, the mixture was stirred for 10 minutes. It was then cooled to −78° C., and a solution of 6.96 g of 2-chloro-6-methoxypyrazine in tetrahydrofuran (10 ml) was added dropwise at below −70° C. The mixture was stirred for 30 minutes, and then 6 ml of N,N-dimethylformamide was added dropwise at below −65° C. After 10 minutes, 50 ml of toluene was added to the reaction solution at below −60° C., and then after 2 minutes, a tetrahydrofuran solution (5 ml) containing 2 ml of water was added at below −65° C. After an additional 5 minutes, 60 ml of 50% aqueous acetic acid was added at once, and then after 15 minutes, 100 ml of water was added and the temperature was raised to room temperature. The reaction solution was extracted with ethyl acetate, and the organic layer was washed with water, a 1N sodium hydroxide solution and saturated brine in that order and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (6.38 g, 77% yield).

reactant | 2,2,6,6-tetramethylpiperidine | 11.4 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-butyllithium | 2.6 M, 24.1 ml | C(CCC)[Li]
reactant | 2-chloro-6-methoxypyrazine | 6.96 g | ClC1=NC(=CN=C1)OC | C5H5ClN2O
reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-3-methoxypyrazine-2-carboxaldehyde | 6.38 g, 77% yield | ClC=1N=C(C(=NC1)C=O)OC | C6H5ClN2O2
